US04010178
2-(1-naphthyl)acetonitrile (16.7 g.) was added to a solution of sodium hydroxide (4.2 g.) in methanol (80 ml.). To the mixture was introduced under ice-cooling gaseous methyl nitrite which was prepared by adding a solution of conc sulfuric acid (5 ml.) in water (10 ml.) to a solution of sodium nitrite (8.3 g.) in a mixture of methanol (5.5 ml.) and water (5 ml.). The mixture was stirred for 4 hours at the same temperature and the reaction mixture was treated by conventional method to give 2-hydroxyimino-2-(1-naphthyl)acetonitrile (7.1 g.), oil.

reactant | 2-(1-naphthyl)acetonitrile | 16.7 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | sodium hydroxide | 4.2 g | [OH-].[Na+]
reactant | methyl nitrite | N(=O)OC | CH3NO2
reactant | sulfuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | 8.3 g | N(=O)[O-].[Na+]
solvent | methanol | 80 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
solvent | methanol | 5.5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-hydroxyimino-2-(1-naphthyl)acetonitrile | 7.1 g | ON=C(C#N)C1=CC=CC2=CC=CC=C12 | C12H8N2O
